US05017590
(a) Preparation of methyl (2S,3R)-2-amino-3-hydroxybutyrate
109 ml (1.5 mol) of thionyl chloride are added dropwise at 0° C. with strong cooling to 240 ml of methanol. 60 g (0.5 mol) of L-threonine are then added and the mixture is stirred at room temperature for 2 days, a clear solution resulting. After concentration, 85 g of a colorless oil are obtained.

reactant | thionyl chloride | 1.5 mol, 109 ml | S(=O)(Cl)Cl | Cl2OS
reactant | L-threonine | 0.5 mol, 60 g | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | methanol | 240 ml | CO | CH4O
product | methyl (2S,3R)-2-amino-3-hydroxybutyrate | N[C@H](C(=O)OC)[C@@H](C)O | C5H11NO3
